US08791133B2
Ethyl 4-{(E)-2-[5-(3-fluorophenyl)pyridin-2-yl]vinyl}-7,7-dimethyl-5-oxo-4,5,6,7,8,9-hexahydro-1H-pyrazolo[3,4-b]quinoline-3-carboxylate
The title compound is prepared as a mixture of diastereomers according to procedure A from 150 mg of (E)-3-[5-(3-fluorophenyl)pyridin-2-yl]propenal, 93 mg of dimedone and 102 mg of ethyl 5-amino-1H-pyrazole-3-carboxylate.

reactant | (E)-3-[5-(3-fluorophenyl)pyridin-2-yl]propenal | 150 mg | FC=1C=C(C=CC1)C=1C=CC(=NC1)/C=C/C=O | C14H10FNO
reactant | dimedone | 93 mg | CC1(CC(=O)CC(=O)C1)C | C8H12O2
reactant | ethyl 5-amino-1H-pyrazole-3-carboxylate | 102 mg | NC1=CC(=NN1)C(=O)OCC | C6H9N3O2
product | Ethyl 4-{(E)-2-[5-(3-fluorophenyl)pyridin-2-yl]vinyl}-7,7-dimethyl-5-oxo-4,5,6,7,8,9-hexahydro-1H-pyrazolo[3,4-b]quinoline-3-carboxylate | FC=1C=C(C=CC1)C=1C=CC(=NC1)/C=C/C1C2=C(NC=3CC(CC(C13)=O)(C)C)NN=C2C(=O)OCC | C28H27FN4O3
